Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"not able to move jaw"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ female with ___ here with jaw dislocation. 

Pt's daughter reports that the pt had hematuria leading to a 
cystoscopy and bladder cancer removal earlier in the week. After 
the procedure the pt was weak and therfore went to ___ 
___ rehab.  There, the pt was taking very little PO and was 
found by speech therapist to have jaw dislocation. 

Pt went to OSH and was transferred here. pt was also noted to 
have new onset right arm edema, dx with a subclavian DVT.  Per 
daughter, pt did not have much pain from the jaw, was somehwat 
bothered by the arm swelling. is supposed to have foley taken 
out, but has been left in due to transfer to eval to ed. Family 
is eager to have pt return to ___ when safe.

10 systems reviewed and are otherwise negative.  
 
Past Medical History:
parkinsons
--at baseline uses walker
--ground food, nectar thick liquids
chf with edema a few years ago
htn
glaucoma
pacemaker
bladder mass
 
Social History:
___
Family History:
no parkinsons in family
 
Physical Exam:
Admission Exam:
 Afeb, VSS 
 Cons: NAD, lying in bed, eldelry female 
 Eyes: EOMI, no scleral icterus  
 ENT: MMM  
 Cardiovasc: rrr, no edema  
 Resp: CTA B, decreased at bases  
 GI: +bs,soft, nt, nd 
 MSK: no significant kyphosis  
 Skin: no rashes  
 Neuro: +masked facies, very slow to move
 Psych: full range of affectblunted affect
 GU: foley catheter in place with clear urine

Discharge Exam:
General: elderly, chronically ill appearing female, no distress
Vitals: 97.5 120/63 69 20 93% RA
Pain: ___
HEENT: op clear, anicteric sclerae, MMM
Card: rr, nl rate, systolic murmur, no edema
Pulm: bibasilar crackles lower ___ lung zones, upper lobes 
clear, upper airway sounds
Abd: soft, nontender, nondistended, positive bowel sounds  
Ext: bilateral pain with palp of internal and external malleoli, 
on left ankle, she has tenderness at achilles tendon insertion, 
no warmth, able to move ankle, no erythema or unilateral edema.
Skin: no rashes  
Neuro: +masked facies, very slow to move
Psych: blunted affect
 
Pertinent Results:
Admission Labs:
___ 08:43AM BLOOD WBC-9.7 RBC-4.56 Hgb-9.9* Hct-33.0* 
MCV-72* MCH-21.8* MCHC-30.1* RDW-16.6* Plt ___
___ 09:30PM BLOOD ___ PTT-26.2 ___
___ 08:43AM BLOOD Glucose-93 UreaN-34* Creat-0.9 Na-147* 
K-3.5 Cl-109* HCO3-26 AnGap-16
___ 08:43AM BLOOD Mg-2.1
___ 11:15PM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD
___ 11:15PM URINE RBC-146* WBC-27* Bacteri-NONE Yeast-NONE 
Epi-0
___ 11:15PM URINE CastHy-36*

Discharge Labs:
___ 06:25AM BLOOD WBC-7.7 RBC-4.08* Hgb-9.2* Hct-29.8* 
MCV-73* MCH-22.5* MCHC-30.8* RDW-16.9* Plt ___
___ 06:25AM BLOOD Glucose-82 UreaN-25* Creat-0.9 Na-143 
K-3.5 Cl-107 HCO3-28 AnGap-12
___ 06:25AM BLOOD Calcium-10.3 Phos-2.1* Mg-1.8

Imaging:
CTA Chest: 1.  There is an arguable filling defect in a 
subsegmental pulmonary artery in the region of the right lower 
lobe pneumonia, which may represent a small pulmonary embolism.  
If clinical suspicion for pulmonary embolism remains high, 
recommend repeat CTA of the chest after treatment for pneumonia. 
2. Large, heterogeneous masses in the thyroid. Recommend 
nonemergent thyroid ultrasound for additional evaluation, if 
this has not already been performed. 3.  Massive cardiomegaly. 
4. Dense consolidations in the bilateral bases with air 
bronchograms, concerning for multifocal pneumonia.

CT sinus: Successful reduction of the temporomandibular joints 
bilaterally. Alignment appears anatomic. No fracture identified.
 
Brief Hospital Course:
___ with ___ disease, CHF, HTN, recent bladder cancer 
resection (~1 week prior) who presents with jaw dislocation, 
subclavian vein thrombosis, hematuria.

# Jaw dislocation: 
Likely due to recent surgery and complication from anesthesia. 
She underwent reduction in the ED with apparent proper alignment 
per CT sinus. She is now tolerating modified diet without active 
aspiration (however, I am concerned about continued silent 
aspiration). She needs continued S+S evaluation.

# Subclavian vein DVT:
She was found to have subclavian vein DVT at OSH. She did not 
have a history of central catheter per patient/family. We 
attempted anticoagulation with heparin drip; however, this was 
complicated from hematuria with hematocrit drop. Anticoagulation 
was stopped as the risk of significant bleed was thought to 
outweigh the benefit of upper extremity DVT treatment. I 
discussed with patient and family and they agreed. If the 
hematuria resolved, anticoagulation can be considered in ___ 
weeks if clinically indicated.

# Hematuria, gross:
# Bladder mass:
This was likely due to recent surgical removal or bladder 
cancer. She had no visible hematuria after discontinuation of 
anticoagulation. She will need to follow up with urologist for 
results and further evaluation and management. After discussion 
with daughter (HCP), they would not opt for chemotherapy or 
other aggressive therapy at this point if continued malignancy. 
Cancer could explain some of her symptoms such as continued 
fatigue and anorexia. She will need to follow up with urology to 
determine final results of her bladder mass resection and to 
determine appropriate follow up therapy. Palliative care or 
hospice should be considered.

# Consolidation of chest CT:
This was likely due to aspiration. There was no evidence of 
active pneumonia based on WBC, O2 requirement, fevers, etc. She 
did have bibasilar crackles on exam. She was continued on 
levofloxacin (prescribed from prior bladder surgery) which was 
changed to Augmentin after she was noted to have achilles 
tendonitis. If she develops fevers, worsening SOB, etc, she may 
need HCAP treatment for likely aspiration pneumonia.

# Left achilles tenderness:
Likely due to fluoroquinolone. This was discontinued and she was 
started on Augmentin. Continue to work with ___.

# Deconditioning:
She has significant weakness. Likely from hospitalization and 
acute and chronic medical issues. She will need aggressive 
rehabilitation.

# Thyroid masses:
Discussed need to obtain ultrasound with family and letter sent 
to PCP. This will be pursued as outpatient if necessary.

# Hypernatremia: 
This resolved after encouragement of PO intake. In addition, 
lasix was held. This was held at time of discharge, but may need 
to be restarted if hypervolemic.

# ___ disease:
She ambulates with walker at baseline. Significantly weak 
currently. Continues on Sinemet.

# Anemia:
Microcytic. Presumably from bleed from urinary source. Needs 
close monitoring to make sure improves as outpatient.

Transitional issues:
- follow up bladder mass results
- thyroid ultrasound as outpatient
- aggressive ___
- S+S evaluation for continued aspiration, ___ for chest ___
- treatment of malnutrition, consider trial of zinc supplement 
for lack of taste
- consider trial of anticoagulation in future
- labs in ___ days to ensure stability of CBC, electrolytes
- consider discussion of goals of care with focus on palliative 
care or hospice care
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Carbidopa-Levodopa (___) 1 TAB PO QIDACHS 
3. Potassium Chloride 20 mEq PO DAILY 
4. Spironolactone 25 mg PO DAILY 
5. Azopt (brinzolamide) 1 % ophthalmic bid 
6. Furosemide 40 mg PO DAILY 
7. Magnesium Oxide 400 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Caltrate 600 (calcium carbonate) 600 mg (1,500 mg) oral qd 

 
Discharge Medications:
1. Azopt (brinzolamide) 1 % ophthalmic bid 
2. Carbidopa-Levodopa (___) 1 TAB PO QIDACHS 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Lidocaine 5% Patch 1 PTCH TD QAM 
5. Multivitamins 1 TAB PO DAILY 
6. Spironolactone 25 mg PO DAILY 
7. Caltrate 600 (calcium carbonate) 600 mg (1,500 mg) oral qd 
8. Potassium Chloride 20 mEq PO DAILY 
Hold for K > 
9. Senna 8.6 mg PO BID 
10. Heparin 5000 UNIT SC BID 
11. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 5 Days 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Jaw dislocation
Upper extremity DVT
Hematuria
Anemia
Parkinsonism
Aspiration pneumonitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted for a jaw dislocation and DVT. Your jaw 
dislocation was repaired without issue. Your DVT was initially 
treated with anticoagulation; however, you developed gross 
hematuria with downtrending hematocrit. After discussion, we 
decided to hold anticoagulation for ___ weeks due to the 
bleeding risk after your recent procedure. You can consider 
re-evaluation with right upper extremity ultrasound with 
starting anticoagulation at that time to see if you tolerate the 
blood thinner.

In addition, you had evidence of lung aspiration but were 
without symptoms of bacterial infection. You will need to have 
continued speech and swallow therapy to ensure you are not 
aspirating. In addition, you should get chest ___ to help 
mobilize your secretions.

You are deconditioned from your recent procedure and illness. 
You will need physical therapy, speech and swallow therapy, 
nutrition supplementation prior to returning home.
 
Followup Instructions:
___